US06943183B2
1. 4-vinylisoquinoline
4-Bromoisoquinoline (10 g, 0.048 mol), Pd(OAc)2 (1.07 g, 0.0048 mol), (o-tol)3P (2.95 g, 0.0096 mol), Et3N (13.06 mL, 0.096 mol) and a saturated soln. of ethylene in MeCN (100 mL) were placed in a seal reaction apparatus and heated to 100° C. for 2 days. Solvent was removed in vacuo and EtOAc was added. Washed the organic layer with H2O (2×), sat. NaHCO3 (2×), and brine. The organic solution was dried over MgSO4 and the solvent was removed in vacuo. A brown oil (7.0 g) was obtained and chromatographed using SiO2, DCM/1% MeOH to DCM/2%MeOH giving a yellow oil (5.57 g, 75% yield). MS APCI (156), [M+H]+; anal. calcd. for C11H9N1.0.07H2O, MWC=156.46, C, 84.44%; H, 5.89%; N, 8.95%. found C, 84.48%; H, 5.84%; N, 8.66%.

reactant | 4-Bromoisoquinoline | 0.048 mol, 10 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | Et3N | 0.096 mol, 13.06 mL | CCN(CC)CC | C6H15N
reactant | ethylene | C=C | C2H4
solvent | MeCN | 100 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 0.0048 mol, 1.07 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-vinylisoquinoline | 7.0 g | C(=C)C1=CN=CC2=CC=CC=C12 | C11H9N
